US06126949
2 moles of behenyl alcohol is reacted with 1 mole fumaric acid using standard ester manufacturing procedures (heated at 160-180° C. with 0.1% by weight of the reactants of a catalyst such as tin oxalate or dibutyl tin oxide) in inert solvent in standard manufacturing equipment until the production of water from the esterification is complete and an appropriate SAP value and acid value are reached. The compound is isolated by distilling off excess solvent, if present, extracting out the dibehenyl fumarate, or precipitating di-behenyl fumarate out of water, followed by recrystalliziation of the crude product/precipitate to provide di-behenyl fumarate which is used in the following examples.

reactant | behenyl alcohol | 2 moles | C(CCCCCCCCCCCCCCCCCCCCC)O | C22H46O
reactant | fumaric acid | 1 mole | C(\C=C\C(=O)O)(=O)O | C4H4O4
reactant | tin oxalate | C(C(=O)[O-])(=O)[O-].[Sn+4].C(C(=O)[O-])(=O)[O-]
reactant | dibutyl tin oxide | C(CCC)[Sn](CCCC)=O
solvent | water | O | H2O
product | di-behenyl fumarate | C(\C=C\C(=O)OCCCCCCCCCCCCCCCCCCCCCC)(=O)OCCCCCCCCCCCCCCCCCCCCCC | C48H92O4
